US04055595
A solution of (±)-2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid (1.0 g.) in ether is treated with diazomethane by the process described in Example 18 to give (±)-methyl 2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate (0.8 g.) m.p. 60°-62° C. (from methanol at -50° C.).

reactant | (±)-2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid | 1.0 g | COC=1C=C2C=CC(=CC2=CC1)COC(C(=O)O)(C(F)(F)F)C | C16H15F3O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | (±)-methyl 2-(6-methoxy-2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate | 0.8 g | COC=1C=C2C=CC(=CC2=CC1)COC(C(=O)OC)(C(F)(F)F)C | C17H17F3O4
